US08497281B2
Step 4: 6-methoxy-indeno[2,1-b]pyridin-9-one
Aluminum chloride (7.33 g) is added to a solution of 3-(3-methoxy-phenyl)-pyridine-2-carbonyl chloride (crude, 5.40 g) in dichloromethane (100 mL) chilled in an ice bath. The cooling bath is removed and the mixture is stirred at room temperature overnight. The mixture is then poured on crushed ice and the resulting mixture is extracted with dichloromethane. The combined extracts are washed with aqueous NaHCO3 solution and dried (Na2SO4). The solvent is evaporated and the residue is triturated with a mixture of cyclohexane and ethyl acetate (1:1) and dried to give the title compound as a yellowish solid. Yield: 3.00 g (65% of theory); LC (method 1): tR=2.84 min; Mass spectrum (ESI+): m/z=212 [M+H]+.

reactant | Aluminum chloride | 7.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-(3-methoxy-phenyl)-pyridine-2-carbonyl chloride | 5.40 g | COC=1C=C(C=CC1)C=1C(=NC=CC1)C(=O)Cl | C13H10ClNO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 6-methoxy-indeno[2,1-b]pyridin-9-one | COC=1C=CC=2C(C3=NC=CC=C3C2C1)=O | C13H9NO2
